US05506267
6,7-bis(palmitoyloxy)-4-thiaheptanoic acid p-methoxybenzyl ester
To a solution of 6,7-dihydroxy-4-thiaheptanoic acid p-methoxybenzyl ester as obtained in Reference Example 2 (1.99 g) in methylene chloride (26 ml), triethylamine (4.6 ml), palmitoyl chloride (6.00 g) and dimethylaminopyridine (5 mg) were added at 0° C., followed by stirring at room temperature for 24 hours. After addition of 5% citric acid, the reaction mixture was extracted with methylene chloride. The extract was washed with a saturated aqueous solution of sodium hydrogen carbonate and saturated saline, and dried over anhydrous sodium sulfate, and the solvent was distilled off. The residue was recrystallized (methanol-hexane) to yield the title compound (2.30 g, yield 45%) as a white powder.

reactant | 6,7-dihydroxy-4-thiaheptanoic acid p-methoxybenzyl ester | COC1=CC=C(COC(CCSCC(CO)O)=O)C=C1 | C14H20O5S
reactant | palmitoyl chloride | 6.00 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | dimethylaminopyridine | 5 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methylene chloride | 26 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 4.6 ml | C(C)N(CC)CC | C6H15N
product | 6,7-bis(palmitoyloxy)-4-thiaheptanoic acid p-methoxybenzyl ester | 2.30 g, yield 45% | COC1=CC=C(COC(CCSCC(COC(CCCCCCCCCCCCCCC)=O)OC(CCCCCCCCCCCCCCC)=O)=O)C=C1 | C46H80O7S
